US03989737
2-(N-allyloxypropionimidoyl)-3-benzyloxy-5,5-dimethyl-2-cyclohexene-1-one
To a solution of 2-(1-allyloxyaminopropylidene)-5,5-dimethylcyclohexane-1,3-dione (2.5 g) in acetone (30 ml), sodium hydroxide (0.4 g) in water (2 ml) was added at room temperature and then benzyl bromide (2.0 g) was added. After stirring for 10 hours at 60° C the reaction mixture was poured into ice-water and extracted with chloroform. The extract was washed with one normal sodium hydroxide and dried over magnesium sulfate. The solvent was removed in vacuo and an oily substance which solidified on standing at 0° C was obtained. Recrystallization from the mixture of methanol and water gave the desired product as crystal.

reactant | 2-(1-allyloxyaminopropylidene)-5,5-dimethylcyclohexane-1,3-dione | 2.5 g | C(C=C)ONC(CC)=C1C(CC(CC1=O)(C)C)=O | C14H21NO3
reactant | sodium hydroxide | 0.4 g | [OH-].[Na+]
reactant | benzyl bromide | 2.0 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetone | 30 ml | CC(=O)C | C3H6O
solvent | water | 2 ml | O | H2O
product | 2-(N-allyloxypropionimidoyl)-3-benzyloxy-5,5-dimethyl-2-cyclohexene-1-one | C(C=C)ON=C(CC)C=1C(CC(CC1OCC1=CC=CC=C1)(C)C)=O | C21H27NO3
